US07351713B2
403 mg (1 mmol) of 3-(4-methoxy-benzyl)-1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester were dissolved in a minimum of diethyl ether before adding 3 mL of a solution of dioxane/HCl 4N. The reaction mixture was agitated 10 minutes at room temperature and then evaporated. The yellow crude was triturated with diethyl ether and filtered to yield 115.3 mg (34%) of 3-(4-methoxy-benzyl)-1-methyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride as a pale yellow solid.

reactant | 3-(4-methoxy-benzyl)-1-methyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 1 mmol, 403 mg | C(C)(C)(C)OC(=O)N1CCC2(C(N(C(N2C)=O)CC2=CC=C(C=C2)OC)=O)CC1 | C21H29N3O5
reactant | dioxane HCl | 4N | O1CCOCC1.Cl
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4-methoxy-benzyl)-1-methyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione hydrochloride | 115.3 mg, 34% | Cl.COC1=CC=C(CN2C(N(C3(C2=O)CCNCC3)C)=O)C=C1 | InChI=1S/C16H21N3O3.ClH/c1-18-15(21)19(11-12-3-5-13(22-2)6-4-12)14(20)16(18)7-9-17-10-8-16;/h3-6,17H,7-11H2,1-2H3;1H
